US04404299
Manufacture of Ethylene/Ethyl Acrylate/Maleic Anhydride Terpolymers
A cylindrical autoclave reactor comprised three zones, each having a volume of 1 liter, and was equipped with a blade stirrer. The zones were separated by valve-screens. Fresh ethlene, compressed by a first compressor, fed the first zone. The second zone was fed with a homogeneous mixture of ethylene, maleic anhydride (MA), and ethyl acrylate (EA). Finally, a solution of tert-butyl 2-ethyl-perhexanoate in a hydrocarbon cut was injected into the third zone. The latter therefore constituted the only reaction zone because it brought the three comonomers into contact with a free-radical initiator. Table I below shows, on the one hand, the proportions by weight of maleic anhydride and ethyl acrylate in the reaction zone, relative to the ethylene, and, on the other hand, the temperature in the zone. The reactor was kept under a pressure of 1,600 bars. An expansion valve, which makes it possible to lower the pressure to 300 bars, was located at the bottom of the third zone of the reactor. After having passed through the expansion valve, the mixture of the molten polymer on the one hand and the gaseous monomers on the other hand passed into a separating hopper. While the polymer was collected at the bottom of the hopper, the monomers, after passage through a degreasing hopper, were led into a second compressor. Furthermore, a solution of maleic anhydride in ethyl acrylate was pumped in under pressure and led into the inlet of a Venturi-type homogenizer, where it was mixed with the stream of the recycled monomers coming from the second compressor. At the outlet of this Venturi device, the mixture of the three monomers was led into a sprial homogenizer and then transferred to the second zone of the reactor.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | ethylene | C=C | C2H4
product | Ethylene/Ethyl Acrylate Maleic Anhydride | C=C.C(C=C)(=O)OCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C5H8O2.C4H2O3.C2H4/c1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3H,1,4H2,2H3;1-2H;1-2H2
